US07981903B2
A solution of 5-chloro-8-fluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one hydrogen chloride (500 mg, 1.043 mmol) and 1-{[ethyl(methyl)amino]acetyl}-6-(methyloxy)-1,2,3,4-tetrahydro-7-quinolinamine (289 mg, 1.043 mmol) in 2,2,2-trifluoroethanol (10 ml) was warmed to 90° C. in a pressure flask and maintained for 3 hours. The vial was cooled and its contents poured into saturated sodium bicarbonate/methylene chloride. The organic layer was dried over sodium sulfate, filtered, and taken to a residue under reduced pressure. The residue was triturated with diethyl ether to afford a yellow solid (ca 310 mg). The solid was suspended in tetrahydrofuran (100 ml) and 2.0M methyl amine in THF (5.22 ml, 10.43 mmol) was added. The solution was stirred for 16 hours and concentrated to a solid under reduced pressure to afford 2-({2-{[1-(N-ethyl-N-methylglycyl)-6-(methyloxy)-1,2,3,4-tetrahydro-7-quinolinyl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluoro-N-methylbenzamide (310 mg, 0.434 mmol, 41.6%) as a yellow solid. A solution of 2-({2-{[1-(N-ethyl-N-methylglycyl)-6-(methyloxy)-1,2,3,4-tetrahydro-7-quinolinyl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluoro-N-methylbenzamide (310 mg, 0.434 mmol) in 1,4-dioxane (8.00 ml) was added to a microwave vial along with 2.0N NaOH (aq) (8 ml). The vial was sealed and contents warmed at 120° C. for 12 minutes. The reaction was cooled, opened, and poured into ethyl acetate/THF/saturated sodium chloride. The organic layer was dried over sodium sulfate, filtered, stripped onto celite, and purified by column chromatography to afford 2-[(2-{[1-(N-ethyl-N-methylglycyl)-6-(methyloxy)-1,2,3,4-tetrahydro-7-quinolinyl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluoro-N-methylbenzamide (0.085 g, 0.152 mmol, 35.0%) as a pale violet solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 11.34 (s, 1H), 10.06 (s, 1H), 8.49 (d, J=4.21 Hz, 1H), 8.38 (s, 1H), 8.20 (d, J=8.24 Hz, 1H), 7.45 (s, 1H), 7.27-7.39 (m, 1H), 6.86-6.99 (m, 2H), 6.78 (s, 1H), 6.26 (s, 1H), 3.80 (s, 3H), 3.66 (t, J=5.31 Hz, 2H), 3.27 (s, 2H), 2.74 (d, J=4.39 Hz, 3H), 2.62 (s, 2H), 2.28 (s, 2H), 2.06 (s, 3H), 1.71-1.89 (m, 2H), 0.74 (s, 3H). ESIMS (M+H)+=561.

reactant | 2-({2-{[1-(N-ethyl-N-methylglycyl)-6-(methyloxy)-1,2,3,4-tetrahydro-7-quinolinyl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluoro-N-methylbenzamide | 0.434 mmol, 310 mg | C(C)N(CC(=O)N1CCCC2=CC(=C(C=C12)NC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)NC)C(=CC=C2)F)OC)C | C36H39FN8O5S
reactant | NaOH | 2.0N, 8 ml | [OH-].[Na+]
reactant | ethyl acetate THF | C(C)(=O)OCC.C1CCOC1
solvent | 1,4-dioxane | 8.00 ml | O1CCOCC1 | C4H8O2
product | 2-[(2-{[1-(N-ethyl-N-methylglycyl)-6-(methyloxy)-1,2,3,4-tetrahydro-7-quinolinyl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluoro-N-methylbenzamide | 0.152 mmol, 0.085 g, 35.0% | C(C)N(CC(=O)N1CCCC2=CC(=C(C=C12)NC1=NC(=C2C(N1)=NC=C2)NC2=C(C(=O)NC)C(=CC=C2)F)OC)C | C29H33FN8O3
